US07238706B2
Step 1: Ethyl (2E)-3-(4-bromo-2-methylphenyl)prop-2-enoate
To a solution of 4-bromo-2-methylbenzaldehyde (1 eq) and triethylphosphonoacetate (1.1 eq) in THF (0.3M) at rt was added dropwise potassium t-butoxide (1.1 eq, 1M, THF). The mixture was stirred at rt 3 h, quenched with HCl 10%, diluted with ether, washed with a NaHCO3 Solution, brine, dried over MgSO4, filtered and concentrated. Flash chromatography (Hexane:EtOAc; 90:10 to 70:30) afforded the title compound.

reactant | 4-bromo-2-methylbenzaldehyde | 1 eq | BrC1=CC(=C(C=O)C=C1)C | C8H7BrO
reactant | potassium t-butoxide | 1M, 1.1 eq | CC(C)([O-])C.[K+]
reactant | THF | 0.3M | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-(4-bromo-2-methylphenyl)prop-2-enoate | BrC1=CC(=C(C=C1)/C=C/C(=O)OCC)C | C12H13BrO2
